US05091432
Synthesis of 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-N-[2-(1H-indol-3-yl)ethyl]propanamide (AIT-0072)
0.700 g (4.37 mmol) of tryptamine were placed into a 50 ml round bottom flask equipped with a magnetic stirring bar. Then 5.0 ml of dimethylsulfoxide were added to dissolve the tryptamine. After all the tryptamine had gone into solution, 1.0 g (3.04 mmol) of 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)propanoic acid, 4-nitrophenyl ester (AIT-0081) was added and the flask was sealed with a ground glass stopper. The mixture was stirred at room temperature for five hours. The reaction mixture was poured into 60 ml of acetone. The product was filtered, washed twice with 10 ml of acetone and air dried. The yield of 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-N-[2-(1H-indol-3-yl)ethyl]-propanamide (AIT-0072) was 0.813 g. Yield: 48% (Purity 99.3%). mp: 204°-206° C.

reactant | tryptamine | 4.37 mmol, 0.700 g | NCCC1=CNC2=CC=CC=C12 | C10H12N2
reactant | dimethylsulfoxide | 5.0 ml | CS(=O)C | C2H6OS
reactant | 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)propanoic acid, 4-nitrophenyl ester | 3.04 mmol, 1.0 g | O=C1C=2N=CN(C2N=CN1)CCC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C14H11N5O5
solvent | acetone | 60 ml | CC(=O)C | C3H6O
product | 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-N-[2-(1H-indol-3-yl)ethyl]propanamide | Yield: 48% | O=C1C=2N=CN(C2N=CN1)CCC(=O)NCCC1=CNC2=CC=CC=C12 | C18H18N6O2
